US07943609B2
(11S)-11-Methyl-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline (1.06 g, 4.45 mmol) was dissolved in anhydrous dichloromethane (100 mL) under N2. Triethylamine (1.25 mL, 8.9 mmol) and methanesulfonic anhydride (0.85 g, 4.89 mmol) were sequentially added to the reaction at 0° C. The reaction was allowed to slowly warm to room temperature overnight. The reaction mixture was then washed successively with water (2×100 mL) and brine. The organic layer was dried over Na2SO4, filtered, and concentrated to give a yellow foam. Chromatography (SiO2, 10-30% CMA/CHCl3) gave (11S)-11-methyl-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline (1.01 g) as a yellow foam.

reactant | (11S)-11-Methyl-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline | 4.45 mmol, 1.06 g | C[C@H]1CNCC=2N1C1=C(C=NC3=CC=CC=C13)N2 | C14H14N4
reactant | Triethylamine | 8.9 mmol, 1.25 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 4.89 mmol, 0.85 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (11S)-11-methyl-9-(methylsulfonyl)-8,9,10,11-tetrahydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline | 1.01 g | C[C@H]1CN(CC=2N1C1=C(C=NC3=CC=CC=C13)N2)S(=O)(=O)C | C15H16N4O2S
